US04826866
5-Methyl-3-[[2-(methylthio)phenyl]amino]-1H-pyrazole-4-carboxylic acid, ethyl ester
A mixture of 15 g (0.07 mole) of 4-[2-(methylthio)phenyl]-3-thiosemicarbazide and 11.96 g (0.07 mole) of ethyl 2-chloroacetoacetate (97%) in 100 mL of absolute ethanol was stirred under nitrogen atmosphere for 1 hr at room temperature. The reaction was slightly exothermic and the mixture took on a yellow color as most of the solid dissolved. The mixture was treated with 50 mL of 2N ethanolic hydrogen chloride and heated at reflux for 1.5 hr. The mixture had darkened to a deep, clear, orange color, with only a trace of insoluble material which was removed by filtering through a sintered glass filter. The solvent was removed in vacuo giving a yellow-orange solid (18.6 g). The solid was recrystallized from acetone, 17.4 g (85% yield), mp 135°-158° C. Thin layer chromatography indicated two impurities (10% methanol/benzene on silica gel). This crude product was recrystallized from benzeneligroin to give 12.1 g (59% yield), mp 126° -128° C. (some solid remained and melted at 158°-160° C.). Thin layer chromatography indicated that one of the two impurities had been removed. The solid was dissolved in methylene chloride and chromatographed on a 250 g column of Florisil® (60-100 mesh). The column was eluted with methylene chloride. The solid obtained was recrystallized from benzene-ligroin giving 4.6 g (22.5%) of product, mp 140.5°-142° C.

reactant | 4-[2-(methylthio)phenyl]-3-thiosemicarbazide | 0.07 mole, 15 g | CSC1=C(C=CC=C1)NC(NN)=S | C8H11N3S2
reactant | ethyl 2-chloroacetoacetate | 0.07 mole, 11.96 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | hydrogen chloride | 2N, 50 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5-Methyl-3-[[2-(methylthio)phenyl]amino]-1H-pyrazole-4-carboxylic acid, ethyl ester | 18.6 g, 85% yield | CC1=C(C(=NN1)NC1=C(C=CC=C1)SC)C(=O)OCC | C14H17N3O2S
